2186-05-03 05:56:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 STOOL CULTURE - At [**2186-5-2**] 06:50 PM
    IVF
   - C diff: POSITIVE
   - Mental status improved
   - CT head:
   Allergies:
   Pneumovax 23 (Injection) (Pneumococcal 23-[**Male First Name (un) **] P-Sac Vac)
   hypotension;
   Last dose of Antibiotics:
   Levofloxacin - [**2186-5-2**] 05:30 PM
   Linezolid - [**2186-5-3**] 12:00 AM
   Metronidazole - [**2186-5-3**] 12:58 AM
   Piperacillin - [**2186-5-3**] 04:10 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2186-5-3**] 04:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Cardiovascular: No(t) Chest pain
   Nutritional Support: NPO
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   Diarrhea, No(t) Constipation
   Flowsheet Data as of  [**2186-5-3**] 05:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 37.9
C (100.2
   HR: 92 (75 - 113) bpm
   BP: 100/49(60) {86/49(60) - 156/81(101)} mmHg
   RR: 18 (17 - 26) insp/min
   SpO2: 92%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 67 Inch
             Total In:
                                                                  5,382 mL
                                                                  1,385 mL
   PO:
             TF:
   IVF:
                                                                  2,382 mL
                                                                  1,385 mL
   Blood products:
   Total out:
                                                                    837 mL
                                                                  1,800 mL
   Urine:
                                                                    537 mL
                                                                  1,000 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,545 mL
                                                                   -415 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 92%
   ABG: ///25/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   R base)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: 1+, Left: 1+
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   142 K/uL
   9.0 g/dL
   182 mg/dL
   0.9 mg/dL
   25 mEq/L
   3.1 mEq/L
   6 mg/dL
   102 mEq/L
   138 mEq/L
   26.6 %
   5.9 K/uL
        [image002.jpg]
                             [**2186-5-3**]  03:51 AM
   WBC
   5.9
   Hct
   26.6
   Plt
   142
   Cr
   0.9
   Glucose
   182
   Other labs: PT / PTT / INR:17.5/41.6/1.6, Differential-Neuts:72.0 %,
   Band:2.0 %, Lymph:18.0 %, Mono:8.0 %, Eos:0.0 %, Lactic Acid:1.0
   mmol/L, Ca++:6.6 mg/dL, Mg++:1.7 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
 .H/O DIARRHEA
 PNEUMONIA, OTHER
   66M with AF, hx Cdiff, recent PNA, now p/w with infiltrate, cough,
   fever, confusion, and increased oxygen requirement.
   .
   # Sepsis: Elevated lactate on admission with fever and hypotension
   responsive to fluids, likely sepsis from pulmonary source as CXR with
   RML/RLL infiltrate. Other possible sources include: colitis from C
   diff, bacteremia, meningitis (less likely given absence of HA,
   meningismus, and more likely source being lung). Pt also has murmur, hx
   Rheumatic Heart Dz.
   - Fluid resuscitation
   - If BP drops place CVL, pressors PRN
   - Abx: Vanco/zosyn/levaquin --> switched Vanco to Linezolid given hx
   VRE on last admission
   - CXR in AM
   - Supplemental O2
   - Cx blood, urine, sputum
   - Consider TTE for veg
   .
   # Diarrhea: Hx recent C diff infection, as well as antibiotics. Abd is
   soft and benign, lactate cleared.
   - POSITIVE for C diff
   - IV Flagyl
   - KUB with no evidence of obstruction or free air
   - Fluid resuscitate, lyte repletion
   .
   # pAF: Was on flecanaide, held for pancytopenia on last admission.
   - Continue Digoxin
   - Follow level
   - IVF & fever control
   .
   # Bipolar: No active issues at this time. Mood stable.
   - Continue home meds
   .
   # FEN: NPO tonight / replete lytes prn / IVFs
   .
   # Ppx: Hep SQ, boots, H2 blocker
   .
   # Code: FULL, ICU consent signed by wife
   .
   # Communication: Patient / Wife
   .
   # Disposition: ICU for now
   ICU Care
   Nutrition: NPO
   Glycemic Control:  RISS
   Lines:
   18 Gauge - [**2186-5-2**] 03:00 PM
   22 Gauge - [**2186-5-2**] 03:00 PM
   Prophylaxis:
   DVT: hep sq, boots
   Stress ulcer: H2
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2186-05-03 11:01:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   MS improved to A+OX3 overnight. Given some IVF for slight hypotension.
   Head CT unremarkable. C. Diff positive.
 STOOL CULTURE - At [**2186-5-2**] 06:50 PM
   Allergies:
   Pneumovax 23 (Injection) (Pneumococcal 23-[**Male First Name (un) **] P-Sac Vac)
   hypotension;
   Last dose of Antibiotics:
   Levofloxacin - [**2186-5-2**] 05:30 PM
   Linezolid - [**2186-5-3**] 12:00 AM
   Piperacillin - [**2186-5-3**] 04:10 AM
   Metronidazole - [**2186-5-3**] 08:07 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2186-5-3**] 04:45 AM
   Heparin Sodium (Prophylaxis) - [**2186-5-3**] 08:07 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2186-5-3**] 11:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 36.7
C (98.1
   HR: 89 (75 - 113) bpm
   BP: 86/49(58) {85/48(58) - 156/81(101)} mmHg
   RR: 15 (11 - 26) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 67 Inch
             Total In:
                                                                  5,382 mL
                                                                  2,383 mL
   PO:
             150 mL
   TF:
   IVF:
                                                                  2,382 mL
                                                                  2,233 mL
   Blood products:
   Total out:
                                                                    837 mL
                                                                  3,240 mL
   Urine:
                                                                    537 mL
                                                                  1,940 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,545 mL
                                                                   -857 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool, Face tent
   SpO2: 98%
   ABG: ///25/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL, disconjugate gaze at baseline
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), (Murmur:
   Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Crackles : R base)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Oriented (to): X3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.0 g/dL
   142 K/uL
   182 mg/dL
   0.9 mg/dL
   25 mEq/L
   3.1 mEq/L
   6 mg/dL
   102 mEq/L
   138 mEq/L
   26.6 %
   5.9 K/uL
        [image002.jpg]
                             [**2186-5-3**]  03:51 AM
   WBC
   5.9
   Hct
   26.6
   Plt
   142
   Cr
   0.9
   Glucose
   182
   Other labs: PT / PTT / INR:17.5/41.6/1.6, Differential-Neuts:72.0 %,
   Band:2.0 %, Lymph:18.0 %, Mono:8.0 %, Eos:0.0 %, Lactic Acid:1.0
   mmol/L, Ca++:6.6 mg/dL, Mg++:1.7 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
 .H/O DIARRHEA
 PNEUMONIA, OTHER
   1. Sepsis: [**3-20**] PNA, also has C. Diff
   -linezolid/zosyn/flagyl
   -TTE to r/o endocarditis
   -add po vanco and IV flagyl
   2. pafib: In sinus
   -restart po digoxin
   3. Bipolar d/o:
   -cont. depakote and celexa/zyprexa
   4. FEN: Swallow eval
   ICU Care
   Nutrition:
   Glycemic Control:  Blood sugar well controlled
   Lines:
   18 Gauge - [**2186-5-2**] 03:00 PM
   22 Gauge - [**2186-5-2**] 03:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill
   ------ Protected Section ------
   I saw and examined this pt, and was present with the ICU team for the
   key portions of services provided. I would add the following: 66 yo
   male with 2 recent hospitalizations for PNA, 2^nd hospitalization
   complicated by Cdiff colitis. He was re-admitted with RML/RLL PNA and
   respiratory distress. Over the past day, he has been intermittently
   hypotensive requiring volume resuscitation and  has had continued
   diarrhea. His CXR has progressed to show RML/RLL involvement from PNA.
   Now Cdiff+
   Problem [**Name (NI) **]:
   1.       PNA
   2.       Hypotension (hypovolemic vs septic)
   3.       Cdiff colitis
   Review of St. E
s records notable for Enterobacter PNA dx
d via
   bronchoscopy/BAL, VRE bacteremia. Given recent hospitalization have
   adjusted abx regimen to linezolid/zosyn/LVQ and flagyl pending culture
   results. It remains unclear why he
s had so  many PNA
s within a 2
   month period, but will review outside records. Continue to volume
   resuscitate, may need CVL.
   Pt is critically ill. Time spent on pt: 35 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) 749**] [**Last Name (NamePattern1) **], MD
   on:[**2186-5-3**] 13:46 ------

2186-05-04 07:39:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2186-5-3**] 09:18 AM
 TRANSTHORACIC ECHO - At [**2186-5-3**] 03:10 PM
 ARTERIAL LINE - START [**2186-5-3**] 07:00 PM
 EKG - At [**2186-5-3**] 07:06 PM
   - A-line placed for better assessment of BP.
   - held off on transfusion b/c A-line showed significant higher BP than
   cuff
   - ECHO - poor technical quality due to patient's body habitus. No
   evidence of endocarditis (trans-thoracic echo cannot exclude). Left
   ventricular function is probably normal, a focal wall motion
   abnormality cannot be fully excluded. The right ventricle is not well
   seen. No pathologic valvular abnormality seen.
   - S&S - passed but moderate dyspahgia, PO diet of thin liquids and
   ground consistency solids.
   - guaiac negative
   - VERY aggressive volume resuscitation
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   History obtained from [**Hospital 85**] Medical recordsPneumovax 23 (Injection)
   (Pneumococcal 23-[**Male First Name (un) **] P-Sac Vac)
   hypotension;
   Last dose of Antibiotics:
   Levofloxacin - [**2186-5-3**] 04:08 PM
   Linezolid - [**2186-5-3**] 11:12 PM
   Metronidazole - [**2186-5-4**] 12:00 AM
   Vancomycin - [**2186-5-4**] 01:00 AM
   Piperacillin - [**2186-5-4**] 04:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2186-5-4**] 12:00 AM
   Famotidine (Pepcid) - [**2186-5-4**] 05:19 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Gastrointestinal: Diarrhea
   Flowsheet Data as of  [**2186-5-4**] 07:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 35.9
C (96.7
   HR: 89 (39 - 102) bpm
   BP: 110/61(71) {74/40(49) - 110/72(79)} mmHg
   RR: 13 (8 - 19) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 87 kg (admission): 85 kg
   Height: 67 Inch
             Total In:
                                                                 10,414 mL
                                                                  4,061 mL
   PO:
                                                                    540 mL
                                                                    240 mL
   TF:
   IVF:
                                                                  9,874 mL
                                                                  3,821 mL
   Blood products:
   Total out:
                                                                  6,220 mL
                                                                  1,130 mL
   Urine:
                                                                  3,770 mL
                                                                    930 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,194 mL
                                                                  2,931 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool, Face tent
   SpO2: 95%
   ABG: 7.33/49/137/26/0
   PaO2 / FiO2: 274
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   R)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   147 K/uL
   10.4 g/dL
   90 mg/dL
   0.6 mg/dL
   26 mEq/L
   3.4 mEq/L
   5 mg/dL
   116 mEq/L
   145 mEq/L
   31.1 %
   5.4 K/uL
         [image002.jpg]
                             [**2186-5-3**]  03:51 AM
                             [**2186-5-3**]  02:00 PM
                             [**2186-5-3**]  07:02 PM
                             [**2186-5-3**]  07:27 PM
                             [**2186-5-3**]  07:32 PM
                             [**2186-5-4**]  03:14 AM
   WBC
   5.9
   4.2
   5.4
   Hct
   26.6
   27.5
   31.1
   Plt
   142
   128
   147
   Cr
   0.9
   0.8
   0.7
   0.6
   TCO2
   27
   Glucose
   182
   107
   89
   90
   Other labs: PT / PTT / INR:15.8/50.8/1.4, Differential-Neuts:72.0 %,
   Band:2.0 %, Lymph:18.0 %, Mono:8.0 %, Eos:0.0 %, Lactic Acid:1.6
   mmol/L, Ca++:7.6 mg/dL, Mg++:2.1 mg/dL, PO4:2.3 mg/dL
   Imaging: CXR [**5-3**]: Interval worsening of right middle lobe pneumonia
   and interval
   development of mild pulmonary edema.
   Microbiology: Urine cx: NG (FINAL)
   Blood cx: P
   C Diff: POSITIVE
   ECG: [**5-3**]  AF with PVCs NSST-T changes
   Assessment and Plan
 .H/O DIARRHEA
 PNEUMONIA, OTHER
   66M with AF, hx Cdiff, recent PNA, now p/w with new PNA and C diff
   diarrhea.
   .
   # Sepsis: Elevated lactate on admission with fever and hypotension
   responsive to fluids, likely sepsis from pulmonary source as CXR with
   RML/RLL infiltrate. Other possible sources include: colitis from C
   diff, bacteremia, meningitis (less likely given absence of HA,
   meningismus, and more likely source being lung). Pt also has murmur, hx
   Rheumatic Heart Dz.   CXR [**5-3**] with blossoming PNA.
   - Fluid resuscitation
   - If BP drops place CVL, pressors PRN
   - Abx: zosyn / levaquin / Linezolid given hx VRE on last admission, IV
   flagyl and po vanc
   - Supplemental O2
   - Cx blood, urine, sputum
   - TTE: no vegetations
   - cx data from St. E
   - lactate
   - peel back linezolid as soon as possible
   - CT abd to evaluate for pseudomembranous colitis
   - Chest CT
   - f/u cx data from OSH
   .
   # Diarrhea: Hx recent C diff infection, as well as antibiotics. Abd is
   soft and benign, lactate cleared.
   - POSITIVE for C diff
   - po vanco
   - KUB with no evidence of obstruction or free air
   - Fluid resuscitate, lyte repletion
   - CT abd/pel
   .
   # Paroxysmal Afib: Was on flecanaide, held for pancytopenia on last
   admission.
   - Continue Digoxin, will place on outpatient dose
 hold today for
   bradycardia
   - Follow level
   - IVF & fever control
   - EP consult
   .
   # Bipolar: No active issues at this time. Mood stable.
   - Continue home meds
   .
   # FEN: NPO tonight / replete lytes prn / IVFs
 Speech & swallow
   evaluation with modified diet
 feed based on recs
   .
   # Ppx: Hep SQ, boots, H2 blocker
   .
   # Code: FULL, ICU consent signed by wife
   .
   # Communication: Patient / Wife
   .
   # Disposition: ICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2186-5-2**] 03:00 PM
   22 Gauge - [**2186-5-2**] 03:00 PM
   Arterial Line - [**2186-5-3**] 07:00 PM
   Prophylaxis:
   DVT: Boots, hep SQ
   Stress ulcer: H2
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU
 possible floor later today

2186-05-04 10:23:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Got copious IVF for large volume stool. TTE showed no vegetations. Dig
   held for bradycardia. Complained of some abd pain this am.
 EKG - At [**2186-5-3**] 09:18 AM
 TRANSTHORACIC ECHO - At [**2186-5-3**] 03:10 PM
 ARTERIAL LINE - START [**2186-5-3**] 07:00 PM
 EKG - At [**2186-5-3**] 07:06 PM
   Allergies:
   Pneumovax 23 (Injection) (Pneumococcal 23-[**Male First Name (un) **] P-Sac Vac)
   hypotension;
   Last dose of Antibiotics:
   Levofloxacin - [**2186-5-3**] 04:08 PM
   [**Year (4 digits) **] - [**2186-5-3**] 11:12 PM
   Vancomycin - [**2186-5-4**] 01:00 AM
   Piperacillin - [**2186-5-4**] 04:00 AM
   Metronidazole - [**2186-5-4**] 08:08 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2186-5-4**] 05:19 AM
   Heparin Sodium (Prophylaxis) - [**2186-5-4**] 08:09 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2186-5-4**] 10:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.1
   Tcurrent: 35.9
C (96.7
   HR: 67 (39 - 102) bpm
   BP: 110/61(71) {74/40(49) - 110/72(79)} mmHg
   RR: 13 (8 - 18) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 87 kg (admission): 85 kg
   Height: 67 Inch
             Total In:
                                                                 10,414 mL
                                                                  5,256 mL
   PO:
                                                                    540 mL
                                                                    480 mL
   TF:
   IVF:
                                                                  9,874 mL
                                                                  4,776 mL
   Blood products:
   Total out:
                                                                  6,220 mL
                                                                  1,380 mL
   Urine:
                                                                  3,770 mL
                                                                  1,180 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,194 mL
                                                                  3,876 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool, Face tent
   SpO2: 95%
   ABG: 7.33/49/137/26/0
   PaO2 / FiO2: 274
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Bronchial: R base)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Oriented (to): X3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.4 g/dL
   147 K/uL
   90 mg/dL
   0.6 mg/dL
   26 mEq/L
   3.4 mEq/L
   5 mg/dL
   116 mEq/L
   145 mEq/L
   31.1 %
   5.4 K/uL
        [image002.jpg]
                             [**2186-5-3**]  03:51 AM
                             [**2186-5-3**]  02:00 PM
                             [**2186-5-3**]  07:02 PM
                             [**2186-5-3**]  07:27 PM
                             [**2186-5-3**]  07:32 PM
                             [**2186-5-4**]  03:14 AM
   WBC
   5.9
   4.2
   5.4
   Hct
   26.6
   27.5
   31.1
   Plt
   142
   128
   147
   Cr
   0.9
   0.8
   0.7
   0.6
   TCO2
   27
   Glucose
   182
   107
   89
   90
   Other labs: PT / PTT / INR:15.8/50.8/1.4, ALT / AST:[**7-5**], Alk Phos / T
   Bili:85/0.3, Amylase / Lipase:46/38, Differential-Neuts:72.0 %,
   Band:2.0 %, Lymph:18.0 %, Mono:8.0 %, Eos:0.0 %, Lactic Acid:1.6
   mmol/L, Albumin:2.4 g/dL, Ca++:7.6 mg/dL, Mg++:2.1 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
 .H/O DIARRHEA
 PNEUMONIA, OTHER
   1. Sepsis: Lactate improving but still requiring copious IVF
   -zosyn/levaquin/[**Last Name (LF) 1829**], [**First Name3 (LF) **] need to d/c if no evidence of PNA
   -po vanco and falgyl
   -recheck lactate
   -CT torso with po and IV contrast to r/o abscess
   2. pafib: Was in afib yesterday, brady this am, held dig
   -check dig level
   -discuss with EP that his flecanide was stopped
   3. bipolar d/o:
   depakote, zyprexa, celexa
   4. FEN: modified diet per speech and swallow
   ICU Care
   Nutrition:
   Glycemic Control:  Blood sugar well controlled
   Lines:
   18 Gauge - [**2186-5-2**] 03:00 PM
   22 Gauge - [**2186-5-2**] 03:00 PM
   Arterial Line - [**2186-5-3**] 07:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill
   ------ Protected Section ------
   I saw and examined the patient, and was present with Dr. [**First Name (STitle) 3648**] for the
   key portions of the services provided. I agree with her note above, and
   would add the following: 66 yo male admitted with Cdiff colitis and
   RML/RLL pneumonia. Yesterday, BP was intermittently low requiring
   massive fluid resuscitation. Today, he is complaining of abdominal pain
   with a distended abdomen, hypoactive bs, ongoing diarrhea. CT scan with
   RML infiltrate, colonic thickening.
   Problem list:
   RML PNA
   Hypotension (hypovolemic vs septic)
   Cdiff colitis.
   Continuing zosyn for PNA, vanc/flagyl for Cdiff colitis. Continue to
   volume resuscitate for low BP as needed. Need to confirm Enterobacter
   sensitivities from the micro lab at St. E
s to make sure PNA coverage
   is adequate. Given CT findings and pt
s abdominal exam, will have him
   seen by Surgery.
   Pt is critically ill. Time spent on pt: 35 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 749**] [**Last Name (NamePattern1) **], MD
   on:[**2186-5-4**] 18:23 ------

2186-05-05 07:53:00 Physician Resident Progress Note
Chief Complaint: CDiff colitis, Pneumonia
   24 Hour Events:
   - EP c/s: Know pt well, usually low HR and lowish BP, OK to hold both
   Digoxin & Flecainide, call if any problems
   - Surgery consult requested: Cont. PO Vanco and IV Flagyl, NPO/IVF,
   Will follow & D/W Drs [**Last Name (STitle) 8501**] and [**Name5 (PTitle) 2346**]
   - Culture data requested from [**Hospital3 2249**]; none sent that helped
   narrow or [**Location (un) **] therapy
   - CT prelim read: RML PNA, diffuse pancolitis, b/l pleural effusions
   and old splenorenal shunt
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   History obtained from [**Hospital 85**] Medical recordsPneumovax 23 (Injection)
   (Pneumococcal 23-[**Male First Name (un) **] P-Sac Vac)
   hypotension;
   Last dose of Antibiotics:
   Piperacillin - [**2186-5-4**] 04:00 AM
   Levofloxacin - [**2186-5-4**] 05:00 PM
   Linezolid - [**2186-5-4**] 11:00 PM
   Metronidazole - [**2186-5-5**] 12:10 AM
   Piperacillin/Tazobactam (Zosyn) - [**2186-5-5**] 04:17 AM
   Vancomycin - [**2186-5-5**] 06:02 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2186-5-4**] 11:21 PM
   Famotidine (Pepcid) - [**2186-5-5**] 06:03 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2186-5-5**] 07:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.6
C (97.9
   HR: 68 (56 - 82) bpm
   BP: 110/61(71) {0/0(0) - 0/0(0)} mmHg
   RR: 13 (9 - 19) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 87 kg (admission): 85 kg
   Height: 67 Inch
             Total In:
                                                                  8,983 mL
                                                                  1,012 mL
   PO:
                                                                  1,440 mL
             TF:
   IVF:
                                                                  7,483 mL
                                                                    892 mL
   Blood products:
   Total out:
                                                                  3,410 mL
                                                                    960 mL
   Urine:
                                                                  2,010 mL
                                                                    610 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,573 mL
                                                                     52 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: 7.31/46/89.[**Numeric Identifier 128**]/26/-3
   Physical Examination
   General: NAD
   Lungs:
   Heart:
   Abd: Soft, +BS,
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   160 K/uL
   9.1 g/dL
   122 mg/dL
   0.7 mg/dL
   26 mEq/L
   3.3 mEq/L
   5 mg/dL
   110 mEq/L
   141 mEq/L
   27.5 %
   4.2 K/uL
        [image002.jpg]
                             [**2186-5-3**]  03:51 AM
                             [**2186-5-3**]  02:00 PM
                             [**2186-5-3**]  07:02 PM
                             [**2186-5-3**]  07:27 PM
                             [**2186-5-3**]  07:32 PM
                             [**2186-5-4**]  03:14 AM
                             [**2186-5-4**]  11:29 AM
                             [**2186-5-4**]  08:13 PM
                             [**2186-5-5**]  04:00 AM
   WBC
   5.9
   4.2
   5.4
   4.2
   Hct
   26.6
   27.5
   31.1
   27.5
   Plt
   142
   128
   147
   160
   Cr
   0.9
   0.8
   0.7
   0.6
   0.7
   0.7
   TCO2
   27
   24
   Glucose
   182
   107
   89
   90
   124
   122
   Other labs: PT / PTT / INR:14.4/58.0/1.3, ALT / AST:[**7-5**], Alk Phos / T
   Bili:85/0.3, Amylase / Lipase:46/38, Differential-Neuts:72.0 %,
   Band:2.0 %, Lymph:18.0 %, Mono:8.0 %, Eos:0.0 %, Lactic Acid:1.0
   mmol/L, Albumin:2.4 g/dL, Ca++:7.9 mg/dL, Mg++:2.0 mg/dL, PO4:2.3 mg/dL
   Imaging: CT C/A/P - 1. Right middle lobe pneumonia with bilateral
   pleural effusions.
   2. Pancolitis, likely c diff as indicated by diffuse colonic wall
   thickening
   involving the entire colon concerning for infectious process such as C.
   diff
   colitis.
   3. Mild-to-moderate amount of free fluid within the abdomen and pelvis.
   4. Incidental note of splenorenal shunt. The splenic and portal veins
   remain
   patent.
   Microbiology: Stool [**5-2**] CDIff positive
   Assessment and Plan
 ABDOMINAL PAIN (INCLUDING ABDOMINAL TENDERNESS)
 .H/O DIARRHEA
 PNEUMONIA, OTHER
   66M with AF, hx Cdiff, recent PNA, now p/w with new PNA and C diff
   diarrhea.
   .
   # Sepsis: Elevated lactate on admission with fever and hypotension
   responsive to fluids, likely sepsis from pulmonary source as CXR with
   RML/RLL infiltrate. Other possible sources include: colitis from C
   diff, bacteremia, meningitis (less likely given absence of HA,
   meningismus, and more likely source being lung). Pt also has murmur, hx
   Rheumatic Heart Dz.   CXR [**5-3**] with blossoming PNA.  Fluid resuscitated
   and now with stable BP, getting maintenance IV while NPO. TTE: no
   vegetations. CT abd revealed pancolitis.  Surgery consulted and
   following.
   - Abx: zosyn / levaquin / Linezolid given hx VRE on last admission, IV
   flagyl and po vanc
   - Supplemental O2
   - Cx blood, urine, sputum
   - will re-request cx data from St. E
   - peel back linezolid as soon as possible
   - Chest / Abd CT: RML PNA, pancolitis
   .
   # Diarrhea: Hx recent C diff infection, as well as antibiotics. Abd is
   soft and benign, lactate cleared. KUB with no evidence of obstruction
   or free air, CT abdomen with pancolitis.
   - POSITIVE for C diff
   - po vanco / IV Flagyl
   - Fluid resuscitate, lyte repletion, will check [**Hospital1 **]
   .
   # Paroxysmal Afib: Was on flecanaide, held for pancytopenia on last
   admission.  Initially continued Digoxin on outpatient dosing, but then
   developed bradycardia.  EP consulted, knows him well, wants to hold
   both medications.  Call with any questions or concerns.
   - IVF & fever control
   # Bipolar: No active issues at this time. Mood stable.
   - Continue home meds
   .
   # FEN: NPO , consider restart clears/ replete lytes prn /  Speech &
   swallow evaluation with modified diet based on recs
   .
   # Ppx: Hep SQ, boots, H2 blocker
   .
   # Code: FULL, ICU consent signed by wife
   # Communication: Patient / Wife
   .
   # Disposition: Call out to the floor
   ICU Care
   Glycemic Control:
   Lines:
   18 Gauge - [**2186-5-2**] 03:00 PM
   22 Gauge - [**2186-5-2**] 03:00 PM
   Arterial Line - [**2186-5-3**] 07:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker

2186-05-05 10:12:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   CT torso showed RML PNA, bilat eff, pancolitis. Surgery consult called.
   Cx data requested from [**Hospital3 3956**].
   Allergies:
   Pneumovax 23 (Injection) (Pneumococcal 23-[**Male First Name (un) **] P-Sac Vac)
   hypotension;
   Last dose of Antibiotics:
   Piperacillin - [**2186-5-4**] 04:00 AM
   Levofloxacin - [**2186-5-4**] 05:00 PM
   Linezolid - [**2186-5-4**] 11:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2186-5-5**] 04:17 AM
   Vancomycin - [**2186-5-5**] 06:02 AM
   Metronidazole - [**2186-5-5**] 08:45 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2186-5-5**] 06:03 AM
   Heparin Sodium (Prophylaxis) - [**2186-5-5**] 08:46 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2186-5-5**] 10:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.7
C (98
   HR: 65 (56 - 82) bpm
   BP: 110/61(71) {0/0(0) - 0/0(0)} mmHg
   RR: 13 (9 - 19) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 87 kg (admission): 85 kg
   Height: 67 Inch
             Total In:
                                                                  8,983 mL
                                                                  1,656 mL
   PO:
                                                                  1,440 mL
             TF:
   IVF:
                                                                  7,483 mL
                                                                  1,296 mL
   Blood products:
   Total out:
                                                                  3,410 mL
                                                                  1,040 mL
   Urine:
                                                                  2,010 mL
                                                                    690 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,573 mL
                                                                    616 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: 7.31/46/89.[**Numeric Identifier 128**]/26/-3
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Wheezes : R > L)
   Abdominal: Soft, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.1 g/dL
   160 K/uL
   122 mg/dL
   0.7 mg/dL
   26 mEq/L
   3.3 mEq/L
   5 mg/dL
   110 mEq/L
   141 mEq/L
   27.5 %
   4.2 K/uL
        [image002.jpg]
                             [**2186-5-3**]  03:51 AM
                             [**2186-5-3**]  02:00 PM
                             [**2186-5-3**]  07:02 PM
                             [**2186-5-3**]  07:27 PM
                             [**2186-5-3**]  07:32 PM
                             [**2186-5-4**]  03:14 AM
                             [**2186-5-4**]  11:29 AM
                             [**2186-5-4**]  08:13 PM
                             [**2186-5-5**]  04:00 AM
   WBC
   5.9
   4.2
   5.4
   4.2
   Hct
   26.6
   27.5
   31.1
   27.5
   Plt
   142
   128
   147
   160
   Cr
   0.9
   0.8
   0.7
   0.6
   0.7
   0.7
   TCO2
   27
   24
   Glucose
   182
   107
   89
   90
   124
   122
   Other labs: PT / PTT / INR:14.4/58.0/1.3, ALT / AST:[**7-5**], Alk Phos / T
   Bili:85/0.3, Amylase / Lipase:46/38, Differential-Neuts:72.0 %,
   Band:2.0 %, Lymph:18.0 %, Mono:8.0 %, Eos:0.0 %, Lactic Acid:1.0
   mmol/L, Albumin:2.4 g/dL, Ca++:7.9 mg/dL, Mg++:2.0 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
 ABDOMINAL PAIN (INCLUDING ABDOMINAL TENDERNESS)
 .H/O DIARRHEA
 PNEUMONIA, OTHER
   1. C. Diff sepsis:
   -flagyl and po vanco
   -enterococcus cx from [**Hospital3 2249**]
   -start clears
   -f/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 458**] recs
   2. PNA: Possible HAP
   -d/c linezolid as no VRE has grown
   -cont. zosyn and levaquin
   -obtain enterobacter [**Last Name (un) **] from OSH
   3. afib: EP aware
   -holding flecanide and dig
   ICU Care
   Nutrition:
   Glycemic Control:  Blood sugar well controlled
   Lines:
   18 Gauge - [**2186-5-2**] 03:00 PM
   22 Gauge - [**2186-5-2**] 03:00 PM
   Arterial Line - [**2186-5-3**] 07:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes
   ------ Protected Section ------
   I saw and examined this pt, and was present with the ICU team for the
   key portions of services provided. I would add the following: 66 yo
   male with RML PNA and severe C.diff colitis. On admission he required
   4-5 liters n.c. oxygen which has steadily decreased throughout his MICU
   stay. Initially he also required vigorous fluid resuscitation to
   maintain BP.
   Issues:
   1.       RML pna- this represents the pt
s 3^rd hospitalization for PNA
   over the past couple months. Records from St. E
s indicate that he had
   RML pna
s previously. It remains unclear why he
s had recurrent PNA
   at St. E
s he underwent bronchoscopy which, though limited, did
   visualize the RML orifice without apparent narrowing or mass. Bronch
   BAL cultures at St. E
s grew out Enterobacter so would f/u
   sensitivities to determine if his abx are appropriate.
   2.       Cdiff colitis: On vanc/flagyl; surgery consulted and
   following.
   Appears appropriate for floor transfer.
   ------ Protected Section Addendum Entered By:[**Name (NI) 749**] [**Last Name (NamePattern1) **], MD
   on:[**2186-5-5**] 15:16 ------